US04725636
4-tertiary-butyl-4-azaheptane-2,6-diol;
4-methyl-4-azaheptane-2,6-diol; 3-ethyl-3-azapentane-1,5-diol; 2-ethyl-2-dimethylamino methyl-propane-1,3-diol; 4-tertiary-pentyl-4-azaheptane-2,6-diol; 3-cyclohexyl-3-azapentane-1,5-diol, 3-tert-butylmethyl-3-azapentandiol-1,5, 3-tert.-pentyl-3-aza-pentandiol-1,

reactant | 4-methyl-4-azaheptane-2,6-diol | CN(CC(C)O)CC(C)O | C7H17NO2
reactant | 3-ethyl-3-azapentane-1,5-diol | C(C)N(CCO)CCO | C6H15NO2
reactant | 2-ethyl-2-dimethylamino methyl-propane-1,3-diol | C(C)C(CO)(CO)CN(C)C | C8H19NO2
reactant | 4-tertiary-pentyl-4-azaheptane-2,6-diol | C(C)(C)(CC)N(CC(C)O)CC(C)O | C11H25NO2
reactant | 3-cyclohexyl-3-azapentane-1,5-diol | C1(CCCCC1)N(CCO)CCO | C10H21NO2
product | 4-tertiary-butyl-4-azaheptane-2,6-diol | C(C)(C)(C)N(CC(C)O)CC(C)O | C10H23NO2
